* C:\Users\Lukas\Documents\Technik- Projekt\Website_AssetsOriginals\AnywhereAmps\AnywhereAmps\Preamp\inrushLimiter_muteOut.asc
C3 VOut 0 1200µ
R5 VOut 0 400
V2 Vbat 0 PULSE(0 20 0.2 1m 1m 1 1 1) Rser=0.01
R9 Vbat base 100k
R10 N001 0 1k
Q2 Vgate base N001 0 BC547B
R11 Vbat Vgate 100k
R12 base 0 47k
D4 VOut Vbat 1N5819
C4 base 0 22µ
D5 0 Vbat TFZ22B
D1 0 VOut TFZ22B
Q1 VOut Vgate Vbat 0 2SAR542P
.model D D
.lib C:\Users\Lukas\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lukas\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 2
.backanno
.end
